US04789675
In a mixture of methanol (80 ml) and tetrahydrofuran (20 ml) was dissolved 2-{3-[4-(4-fluorophenyl)-1-piperazinyl]propyl}-6-nitro-2H-1,4-benzoxazin-3(4H)-one (2.03 g). To the solution was added 10% Pd - C (50% wet, 0.6 g) to conduct catalytic reduction. After the absorption of hydrogen finished, the catalyst was filtered off, and the filtrate was concentrated. The residue was crystallized from ethanol to give 1,85 g (98.2%) of 6-amino-2-{3-[4-(4-fluorophenyl)-1-piperazinyl]propyl}-2H-1,4-benzoxazin-3(4H)-one, m.p. 158°-159° C.

reactant | 2-{3-[4-(4-fluorophenyl)-1-piperazinyl]propyl}-6-nitro-2H-1,4-benzoxazin-3(4H)-one | 2.03 g | FC1=CC=C(C=C1)N1CCN(CC1)CCCC1OC2=C(NC1=O)C=C(C=C2)[N+](=O)[O-] | C21H23FN4O4
solvent | methanol | 80 ml | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | Pd | [Pd] | Pd
product | 6-amino-2-{3-[4-(4-fluorophenyl)-1-piperazinyl]propyl}-2H-1,4-benzoxazin-3(4H)-one | 1,85 g, 98.2% | NC=1C=CC2=C(NC(C(O2)CCCN2CCN(CC2)C2=CC=C(C=C2)F)=O)C1 | C21H25FN4O2
